US07560558B2
Compound 437: 6,7-Dimethoxy-4-(5,6,5′-trimethyl-[2,2′]bipyridin-3-yloxy)-quinazoline
Dimethyl sulfoxide (1.4 ml) was added to 5,6,5′-trimethyl-[2,2′]bipyridin-3-ol (30 mg), 4-chloro-6,7-dimethoxyquinazoline (94 mg), and cesium carbonate (137 mg), and the mixture was stirred at 130° C. for 4 hr. The reaction solution was cooled to room temperature, water was then added to the reaction solution, the mixture was filtered, and the residue was washed with chloroform/methanol. The solvent was removed from the filtrate by distillation under the reduced pressure, water was added to the residue, and the mixture was extracted with chloroform. The chloroform layer was washed with water and was then dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using hexane-acetone to give the title compound (51 mg, yield 91%).

reactant | Dimethyl sulfoxide | 1.4 ml | CS(=O)C | C2H6OS
reactant | 5,6,5′-trimethyl-[2,2′]bipyridin-3-ol | 30 mg | CC=1C=C(C(=NC1C)C1=NC=C(C=C1)C)O | C13H14N2O
reactant | 4-chloro-6,7-dimethoxyquinazoline | 94 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | cesium carbonate | 137 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | O | H2O
product | 6,7-Dimethoxy-4-(5,6,5′-trimethyl-[2,2′]bipyridin-3-yloxy)-quinazoline | 51 mg, yield 91% | COC=1C=C2C(=NC=NC2=CC1OC)OC=1C(=NC(=C(C1)C)C)C1=NC=C(C=C1)C | C23H22N4O3
